US03968117
2,6-Dimethyl-4-[3-nitro-4-(2-diethylaminoethylamino)phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester. ##SPC9##
Ten grams of 2,6-dimethyl-4-(3-nitro-4-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester and 8 g of 2-(diethylamino)ethylamine are heated to 100° (external temperature) overnight. After cooling, ether is added and the product collected by filtration to yield orange crystals of melting poing 161°C after recrystallization from 80 ml of methanol.

reactant | 2,6-dimethyl-4-(3-nitro-4-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | Ten grams | COC(=O)C1=C(NC(=C(C1C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C(=O)OC)C)C | C17H17ClN2O6
reactant | 2-(diethylamino)ethylamine | 8 g | C(C)N(CCN)CC | C6H16N2
solvent | ether | CCOCC | C4H10O
product | 2,6-Dimethyl-4-[3-nitro-4-(2-diethylaminoethylamino)phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | COC(=O)C1=C(NC(=C(C1C1=CC(=C(C=C1)NCCN(CC)CC)[N+](=O)[O-])C(=O)OC)C)C | C23H32N4O6
